US04760069
6-Oximino-17-allyl-4,5α-epoxy-3,14-dihydroxymorphinan
A mixture of naloxone hydrochloride (1.085 g, 3 mmol) and hydroxylamine hydrochloride (0.28 g, 4 mmol) was taken up in 30 mL of MeOH containing 2.8 mL of 10% aqueous NaOH. The mixture was stirred at room temperature for 24 h. Water was added (100 mL), and the oxime extracted into CHCl3 (3×50 mL). The extract was dried (MgSO4), and the solvent evaporated. The residue obtained was recrystallized from CH2Cl2 -petroleum ether. Yield: 840 mg (81.8%); mp: 119° C. IR: (KBr): No C=O absorption at 1717 cm-1. 1H NMR (CDCl3) δ4.98 (s,C5H); Rf: silica gel 60 in EtOAc-EtOH-NH4OH (100:1:1) 0.13. Anal. Calcd for: C19H22N2O4 : C, 66.65; H, 6.48; N, 8.18. Found: C, 66.70; H, 6.52; N, 8.08.

reactant | naloxone hydrochloride | 3 mmol, 1.085 g | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.Cl
reactant | hydroxylamine hydrochloride | 4 mmol, 0.28 g | Cl.NO
reactant | NaOH | [OH-].[Na+]
reactant | Water | O | H2O
solvent | MeOH | 30 mL | CO | CH4O
product | 6-Oximino-17-allyl-4,5α-epoxy-3,14-dihydroxymorphinan | N(O)=C1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CC1)O)N(CC4)CC=C)O)O2 | C19H22N2O4
